US04727081
N-4-Chlorophenyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,3,4-oxadiazole-2,5-diamine
The compound is prepared by a method analogous to that of Example 40 from N-4-chlorophenyl-N'-[3-[3-(1piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarboxamide and phosphorus oxychloride. The analytical values are summarized in Table III.

reactant | N-4-chlorophenyl-N'-[3-[3-(1piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarboxamide | ClC1=CC=C(C=C1)NC(=O)NNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H30ClN5O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-4-Chlorophenyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,3,4-oxadiazole-2,5-diamine | ClC1=CC=C(C=C1)NC=1OC(=NN1)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28ClN5O2
